US03960868
A suspension of 15 g of 3-carboethoxy-4-hydroxy-7-cyclohexyl-quinoline in 150 ml of ethanol and 150 ml of 2 N sodium hydroxide solution is boiled under reflux for 7 hours. It is then evaporated to dryness, the residue is dissolved in ethanol-water and the solution is adjusted to pH value 7 with 2 N hydrochloric acid. The crystalline residue thereby produced is filtered off and thoroughly washed with water. 4-Hydroxy-7-cyclohexylquinoline-3-carboxylic acid thus obtained, melts at 241°-243°C (evolution of gas).

reactant | 3-carboethoxy-4-hydroxy-7-cyclohexyl-quinoline | 15 g | C(=O)(OCC)C=1C=NC2=CC(=CC=C2C1O)C1CCCCC1 | C18H21NO3
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2 N, 150 ml | [OH-].[Na+]
product | 4-Hydroxy-7-cyclohexylquinoline-3-carboxylic acid | OC1=C(C=NC2=CC(=CC=C12)C1CCCCC1)C(=O)O | C16H17NO3
